US06762321B2
1.45 g (2.97 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)-3-difluoromethoxyacrylamide, 751 mg (4.46 mmol) of 48% hydrobromic acid and 15 ml of acetic acid were mixed and stirred at 80° C. for 1.5 hours. Water was added to to the reaction mixture, which was followed by extracted with ethyl acetate twice, washed with saturated brine twice, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=1:1) to give 880 mg of 2-(4-chlorophenyl)-3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]acrylamide (the present compound 1454).

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)-3-difluoromethoxyacrylamide | 2.97 mmol, 1.45 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=COC(F)F)C1=CC=C(C=C1)Cl)=O)OC | C26H24ClF2NO4
reactant | hydrobromic acid | 4.46 mmol, 751 mg | Br | BrH
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 2-(4-chlorophenyl)-3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]acrylamide | 880 mg | ClC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)O)OC)=COC(F)F | C19H18ClF2NO4
